US07858623B2
A dry 100 mL Schlenk-type flask was fitted with a nitrogen/vacuum line and charged with 2-bromo-1,3,5-tri-tert-butylbenzene (0.521 g, 1.601 mmol), 20 mL dry THF, and a stirbar. The solution was cooled to −78° C. and treated with 2.5M butyllithium (0.582 ml, 1.456 mmol). The reaction was stirred for 15 min and treated with 4-phenylmorpholin-3-one (0.258 g, 1.456 mmol) dissolved in 2 mL dry THF dropwise over 5 min. The reaction was stirred for 2 h at −78° C. The side arm compartment of the Schlenk-type flask was charged with ˜1 g dry ice. The system was sealed, and the dry ice was allowed to sublime into the solution. After 30 min, a nitrogen needle was fitted to the flask, and a solid was noted in the solution. The cooling bath was removed, which caused the solids to bubble (presumably dry ice). The solution was allowed to warm to RT overnight. The solution was diluted with 40 mL water and extracted with dichloromethane (2×10 mL). The water was concentrated in vacuo and dried at 60° C. and 0.15 mmHg to afford lithium 3-oxo-4-phenylmorpholine-2-carboxylate (0.200 g, 60.5% yield). 1H NMR (400 MHz, D2O) 3.72 (t, J=5.23 Hz, 2H), 3.99 (dt, J=12.10, 5.29 Hz, 1H), 4.08 (dt, J=12.15, 5.22 Hz, 1H), 4.61 (s, 1H), 7.24-7.28 (m, 2H), 7.32 (tt, 1H), 7.38-7.44 (m, 2H).

reactant | 2-bromo-1,3,5-tri-tert-butylbenzene | 1.601 mmol, 0.521 g | BrC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C | C18H29Br
reactant | butyllithium | 1.456 mmol, 2.5M, 0.582 ml | C(CCC)[Li]
reactant | 4-phenylmorpholin-3-one | 1.456 mmol, 0.258 g | C1(=CC=CC=C1)N1C(COCC1)=O | C10H11NO2
reactant | dry ice | ˜1 g | C(=O)=O | CO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | lithium 3-oxo-4-phenylmorpholine-2-carboxylate | 0.200 g, 60.5% yield | O=C1N(CCOC1C(=O)[O-])C1=CC=CC=C1.[Li+] | InChI=1S/C11H11NO4.Li/c13-10-9(11(14)15)16-7-6-12(10)8-4-2-1-3-5-8;/h1-5,9H,6-7H2,(H,14,15);/q;+1/p-1
